US09328067B2
3-((2-amino-4-chlorophenyl)thio)-1-(pyrrolidin-1-yl)propan-1-one
To a solution of K2CO3 (3.6 g, 26 mmol) in THF (20 ml) was added pyrrolidine (2.1 ml, 26 mmol) at room temperature, then the mixture was cooled to −78° C. and 3-bromopropanoyl chloride (1.0 g, 5.83 mmol) was added slowly. After it was stirred for 30 min, 2-amino-4-chlorobenzenethiol (837 mg, 5.24 mmol) was added to the mixture and the reaction was stirred at room temperature for 3 hours. The mixture was diluted with water, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (0˜30% EtOAc in hexane) to yield the title compound (760 mg, 46%).

reactant | K2CO3 | 26 mmol, 3.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | pyrrolidine | 26 mmol, 2.1 ml | N1CCCC1 | C4H9N
reactant | 3-bromopropanoyl chloride | 5.83 mmol, 1.0 g | BrCCC(=O)Cl | C3H4BrClO
reactant | 2-amino-4-chlorobenzenethiol | 5.24 mmol, 837 mg | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-((2-amino-4-chlorophenyl)thio)-1-(pyrrolidin-1-yl)propan-1-one | 760 mg, 46% | NC1=C(C=CC(=C1)Cl)SCCC(=O)N1CCCC1 | C13H17ClN2OS
